US07119221B2
LiOH.H2O (7.83 g, 187 mmol) and H2O (100 mL) were added to a solution of butyl 1-{11-[1-(butoxycarbonyl)cyclopentyl]-6-oxoundecyl}-1-cyclopentanecarboxylate (21.03 g, 90% pure by 1H NMR, 37.3 mmol) in EtOH (300 mL) and the resulting mixture was stirred at reflux temperature for 2 d, allowed to cool to rt and concentrated in vacuo to a smaller volume. H2O (100 mL) was added and the resulting mixture was extracted with Et2O (100 mL), acidified with conc aqueous HCl (25 mL) and extracted with Et2O (3×150 mL). The latter organic layers were combined, dried (Na2SO4; To avoid loss of material, a minimal amount of Na2SO4 was used, with the desiccant becoming a white, oily paste. The organic layer was decanted from the desiccant.) and evaporated in vacuo. The remaining residue was purified by recrystallization from a mixture of iPr2O and heptane to give 1-[11-(1-carboxycyclopentyl)-6-oxoundecyl]-1-cyclopentanecarboxylic acid (12.15 g, 83%) as white granules. mp=78–85° C. 1H NMR (CDCl3): δ=2.37 (t, J=7.4 Hz, 4H), 2.18–2.10 (m, 4H), 1.65–1.45 (m, 20H), 1.29–1.25 (m, 8H). 13C NMR (CDCl3): δ=211.5, 184.4 (2×), 54.0 (2×), 42.4 (2×), 38.9 (2×), 35.9 (4×), 29.2 (2×), 25.5 (2×), 24.9 (4×), 23.5 (2×). Anal. calcd for C23H38O5: C, 70.02; H, 9.71, found: C, 70.37; H, 9.72.

reactant | LiOH.H2O | 187 mmol, 7.83 g | O[Li].O
reactant | H2O | 100 mL | O | H2O
reactant | butyl 1-{11-[1-(butoxycarbonyl)cyclopentyl]-6-oxoundecyl}-1-cyclopentanecarboxylate | 21.03 g | C(CCC)OC(=O)C1(CCCC1)CCCCCC(CCCCCC1(CCCC1)C(=O)OCCCC)=O | C31H54O5
solvent | EtOH | 300 mL | CCO | C2H6O
product | 1-[11-(1-carboxycyclopentyl)-6-oxoundecyl]-1-cyclopentanecarboxylic acid | 12.15 g, 83% | C(=O)(O)C1(CCCC1)CCCCCC(CCCCCC1(CCCC1)C(=O)O)=O | C23H38O5
